US05455273
a) trans-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]-N-methyl-N-(4-pentynoyl)cyclohexylamine
from trans-4-[4-(3-hydroxypropyl)methylaminomethyl-phenyl)-N-methylcyclohexylamine, N,N'-carbonyldiimidazole and 4-pentynoic acid. Oil. Rf value: 0.66 (alumina/ethyl acetate/methanol=100:1, v:v).

reactant | trans-4-[4-(3-hydroxypropyl)methylaminomethyl-phenyl)-N-methylcyclohexylamine | OCCCC1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NC)CNC | C18H30N2O
reactant | 4-pentynoic acid | C(CCC#C)(=O)O | C5H6O2
product | trans-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]-N-methyl-N-(4-pentynoyl)cyclohexylamine | OCCCC1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)N(C(CCC#C)=O)C)CNC | C23H34N2O2
